US06372736B1
tert-Butyl (2S,4R)-4-([(2S)-1-(1,3-benzoxazol-2-yl)-2-piperidinyl]carbonylamino)-2-[(benzyloxy)methyl]pyrrolidine-1-carboxylate
The title compound was prepared by a similar method to Example 1 from (2S)-1-(1,3-benzoxazol-2-yl)-2-piperidinecarboxylic acid [see Preparation 3] and tert-butyl (2S,4R)-4-amino-2-[(benzyloxy)methyl]pyrrolidine-1-carboxylate [see Preparation 34]. The crude product was purified by column chromatography on silica gel eluting with a solvent gradient of 70:30 changing to 50:50, by volume, hexane: ethyl acetate to afford tert-butyl (2S,4R)-4-([(2S)-1-(1,3-benzoxazol-2-yl)-2-piperidinyl]carbonylamino)-2-[(benzyloxy)methyl]pyrrolidine-1-carboxylate as a foam.

reactant | (2S)-1-(1,3-benzoxazol-2-yl)-2-piperidinecarboxylic acid | O1C(=NC2=C1C=CC=C2)N2[C@@H](CCCC2)C(=O)O | C13H14N2O3
reactant | tert-butyl (2S,4R)-4-amino-2-[(benzyloxy)methyl]pyrrolidine-1-carboxylate | N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)COCC1=CC=CC=C1 | C17H26N2O3
product | tert-butyl (2S,4R)-4-([(2S)-1-(1,3-benzoxazol-2-yl)-2-piperidinyl]carbonylamino)-2-[(benzyloxy)methyl]pyrrolidine-1-carboxylate | O1C(=NC2=C1C=CC=C2)N2[C@@H](CCCC2)C(=O)N[C@@H]2C[C@H](N(C2)C(=O)OC(C)(C)C)COCC2=CC=CC=C2 | C30H38N4O5
